US08420690B2
b) 1,1-dimethylethyl (2-hydroxy-3-phenylpropyl)carbamate
To a solution of 1-amino-3-phenyl-2-propanol (7.6 g, 50 mmole) in THF (50 mL) at RT was added (Boc)2O (12.0 g, 55 mmole). After stirring at RT for 2 h, the reaction solution was concentrated under vacuum and the residue purified on silica gel (5% MeOH in DCM (0.5% NH4OH)) affording the title compound (13.1 g, 91%) as a clear yellow oil: LCMS (ES) m/z 252 (M+H)+.

reactant | 1-amino-3-phenyl-2-propanol | 50 mmole, 7.6 g | NCC(CC1=CC=CC=C1)O | C9H13NO
reactant | (Boc)2O | 55 mmole, 12.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl (2-hydroxy-3-phenylpropyl)carbamate | 13.1 g, 91% | OC(CNC(OC(C)(C)C)=O)CC1=CC=CC=C1 | C14H21NO3
